US07919506B2
Preparation 3: 1-Bromo-2-(bromomethyl)-4-(trifluoromethyl)benzene
To a solution of (2-bromo-5-(trifluoromethyl)phenyl)methanol (4.7 g, 18 mmol) in methylene chloride (50 mL) at −10° C. was added carbon tetrabromide (CBr4) (7.17 g, 21.6 mmol). The resulting mixture was stirred at −10° C. for 15 minutes. Triphenylphosphine (5.61 g, 21.4 mmol) was then slowly added portionwise. This mixture was stirred at room temperature for 16 hours. The mixture was partitioned between saturated ammonium chloride (NH4Cl) (50 ml) and methylene chloride (2×50 mL). The combined organic layers were washed with saturated NaCl (50 mL), dried (MgSO4) and concentrated. The residue was purified by flash chromatography (silica gel) (eluted with 3:1 hexanes-ethyl acetate) to yield the title compound as a white solid (4.01 g). 1H NMR (400 MHz, CDCl3) δ 4.6 (s, 2H) 7.5 (dd, J=8.3, 1.6 Hz, 1H) 7.8 (m, 2H).

reactant | (2-bromo-5-(trifluoromethyl)phenyl)methanol | 18 mmol, 4.7 g | BrC1=C(C=C(C=C1)C(F)(F)F)CO | C8H6BrF3O
reactant | carbon tetrabromide | 21.6 mmol, 7.17 g | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 21.4 mmol, 5.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-2-(bromomethyl)-4-(trifluoromethyl)benzene | 4.01 g | BrC1=C(C=C(C=C1)C(F)(F)F)CBr | C8H5Br2F3
